Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
"I'm irritated, I'm here because I did what I
was supposed to do."
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Per Dr. ___ ___ ED Initial Psychiatry Consult note:

" ___ is a ___ y/o female
with a history of anxiety, no previous psych hospitalizations 
who
is BIBA s/p aborting suicide attempt via overdose by ___.
Psychiatry is consulted for evaluation and assistance with
management and disposition.

Ms. ___ describes that she doesn't often demonstrate her
emotions and was initially very reluctant to share what happened
tonight with me.  Recently she began therapy with ___,
her therapist on ___.  She describes that she has seen
___ 5 sessions and didn't like her first therapist. 

___ moved to ___ to attend ___ on a prestigious
scholarship after being a high-achiever in her high school.  She
describes her first semester as "very lonely".  She relates that
she has had issues with her mother for a long time; when she was
moving into her dorm, her mother and her had an argument and her
mother stopped talking to her.  She reports that she did not go
home for ___, and when she went home over ___ break
to see her siblings, her mother would not acknowledge her
presence even when she was home.  Her mother also did not text
her or call or send her anything on the ___ birthday,
despite the ___ reaching out to mother on mother's birthday. 


Recently in therapy, the ___ has been uncovering a lot of
emotions, and she became overwhelmed after a session with her
therapist today.  She became upset and was studying for a test
and decided that she would drink and take all of her cold
medication at once to kill herself.  She began drinking heavily
(she thinks that earlier in the year she may have been drinking
too much, but states now she only drinks socially).  

___ was unable to explain to me due to distress, but
essentially she aborted the attempt after drinking "a shot" and
instead called for help.  Campus police came to her room and
brought her to the hospital; her girlfriend accompanied her/.

She lists her primary supports as her girlfriend, her therapist,
her mentor, and her peer group of 9 other students from ___
that received the same scholarship to ___ that she did.  She has
weekly mentor meetings and was expressing that although all of
this is very helpful, it is slightly awkward as she has not 
known
all of these people for very long. 

___ endorses poor sleep, lack of motivation (is only doing
things because her girlfriend helps her), loss of interest, poor
appetite, low energy, poor concentration, guilt.  Also endorses
sometimes feeling as if she is being watched, but denies any
psychotic or manic symptoms.  

 COLLATERAL:
 * Obtained from ___, the ___ girlfriend:
___ and the ___ began dating in ___.  They both
opened up to each other about some of their difficulties in
childhood.  The ___ related that her father died at age ___
due to a heart condition and that her mother did not let the
___ have  communication with her father; the ___ found
out her father had died when his parents called  to inform her
about the funeral.  

___ states that the ___ has supports and that they 
___
told her she feels ashamed that she tried to attempt suicide as
___ told me that if I ever needed help, she made me promise
I would call".

In the ED, the ___ remained in ___ behavioral control. The
___ was admitted briefly to the medicine service for
evaluation of neutropenia, which was ultimately thought to be
related to viral suppression following recent significant viral
illness, as well as concurrent alcohol use. Remaining work up 
was
negative.

On interview today, ___ is quite guarded and cagey
surrounding the events that brought her to the hospital. She 
does
confirm the narrative told to Dr. ___ as above. She reports
that at this point she feels "fine" and back to normal, and is
now becoming irritated because she feels she should not be
admitted to this unit. She denies having any suicidal thinking 
at
this time or thoughts of self harm. She shares multiple 
stressors
that she feel result from being on the unit including having a
final to complete, having to coordinate with her family about
getting home, and that she is supposed to move out of the dorms
on ___. She was reassured that the team is here to work with
her, and our primary concern is her safety. ___ felt that 
she
could reach out to staff if she was feeling more distressed or
thinking of hurting herself. 

 
Past Medical History:
 PCP: ___
- ___ has had three EKG's done by ___ to assess for
heart condition as her father died suddenly from a heart
condition.
- Denies seizure
- H/o concussion - playing basketball and fell
 
Social History:
___
Family History:
Consult note, reviewed with ___, and updated as 
appropriate.]
 - ___: Father died early at age ___ due to a heart condition
 - Completed or attempted suicide: denies
 - Substance use or dependence: denies
 - Mental Illness: denies
 
Physical Exam:
General:
-HEENT: Normocephalic, atraumatic.  Moist mucous membranes,
oropharynx clear, supple neck.  No scleral icterus.
-Cardiovascular: Regular rate and rhythm, S1/S2 heard, no
murmurs/rubs/gallops. Distal pulses ___ throughout.
-Pulmonary: No increased work of breathing.  Lungs clear to
auscultation bilaterally.  No wheezes/rhonchi/rales.
-Abdominal: Non-distended, bowel sounds normoactive.  No
tenderness to palpation in all quadrants.  No guarding, no
rebound tenderness.
-Extremities: Warm and well-perfused.  No edema of the limbs.
-Skin: No rashes or lesions noted.

Neurological:
-Cranial Nerves:
---I: Olfaction not tested.
---II: PERRL 3 to 2mm, both directly and consentually; brisk
bilaterally.  VFF to confrontation.
---III, IV, VI: EOMI without nystagmus
---V: Facial sensation intact to light touch in all 
distributions
---VII: No facial droop, facial musculature symmetric and ___
strength in upper and lower distributions, bilaterally
---VIII: Hearing intact to finger rub bilaterally
---IX, X: Palate elevates symmetrically
---XI: ___ strength in trapezii and SCM bilaterally
---XII: Tongue protrudes in midline
-Motor: Normal bulk and tone bilaterally. No abnormal movements,
no tremor. Strength ___ throughout.
-Sensory: No deficits to fine touch throughout
-Gait: Good initiation.  Narrow-based, normal stride and arm
swing.  Able to walk in tandem without difficulty.  Romberg
absent.

 
Pertinent Results:
___ 06:00AM BLOOD WBC-3.0* RBC-4.20 Hgb-12.5 Hct-37.4 
MCV-89 MCH-29.8 MCHC-33.4 RDW-14.0 RDWSD-45.3 Plt ___
___ 08:50AM BLOOD Neuts-28.2* Lymphs-54.0* Monos-15.4* 
Eos-1.2 Baso-1.2* AbsNeut-0.95* AbsLymp-1.82 AbsMono-0.52 
AbsEos-0.04 AbsBaso-0.04
___ 06:00AM BLOOD Glucose-98 UreaN-13 Creat-0.8 Na-141 
K-4.3 Cl-103 HCO3-25 AnGap-13
___ 08:50AM BLOOD VitB12-693 Folate-9
___ 06:00AM BLOOD TSH-1.2
___ 09:03PM BLOOD ASA-NEG ___ Acetmnp-NEG 
Tricycl-NEG
 
Brief Hospital Course:
1. LEGAL & SAFETY:  
On admission, the ___ refused to sign a conditional 
voluntary agreement and was admitted on a ___, which 
expired on ___.  At that time the ___ was not deemed to 
be at risk of harm to self/others and was discharged. She was 
also placed on q15 minute checks status on admission and 
remained on that level of observation throughout while being 
unit restricted.

2. PSYCHIATRIC:
___ initially presented from school after calling crisis 
line with complaints of worsening depressed and anxious mood, 
suicidal thoughts with plan to overdose on medication. She 
reported endorses poor sleep, lack of motivation, loss of 
interest, poor appetite, low energy, poor concentration, guilt. 
On admission, ___ reported being irritation with being 
admitted and denied SI. However, she soon settled on the unit 
and appropriately participated in treatment. She reported that 
the night she called the hotline, she had felt overwhelmed by 
feelings brought up in therapy earlier that day. She discussed 
her difficult relationship with her mother, and how these 
feelings were exacerbated by calling her mother on mother's day. 
She reported one previous incident in middle school where she 
took pills when upset "to sleep." Her therapist reported another 
possible suicide attempt in ___, although the ___ 
denied this. The ___ reported ongoing anxiety and 
intermittent panic attacks since high school. She denied a 
history of physical or sexual trauma, although reports a period 
of time in high school when she became the primary caretaker for 
her younger siblings due to absent guardians. Given the 
___ previous suicide attempt and impulsivity, would 
consider bipolar disorder. Would also  consider PTSD as ___ 
reports significant family stressors as a child. Discussed with 
the ___ starting medication, however ___ declined. Would 
recommended that medication be considered as an outpatient. 
During admission, the ___ developed a safety plan, and 
listed protective factors including her insight, ability to call 
mentor, ability to call hotline, plan to seek out people/society 
when
feeling down, and daily exercise at gym. She also stated that 
she would abstain from alcohol use. At discharge, ___ denied 
SI and had plans to follow up with her therapist and start 
Arbour IOP. 

3. SUBSTANCE USE DISORDERS:
On presentation to the ED, the ___ EtOH level was 108. She 
reported drinking two shots of vodka. During hospitalization, 
the ___ had good insight into how alcohol affected her 
judgement. The team counseled the ___ on the risk of 
continuing to drink alcohol, and the ___ reported that she 
would abstain from any additional alcohol use. 

4. MEDICAL
Prior to admission to psychiatry, the ___ was admitted to 
medicine for incidentally found leukopenia. There were no acute 
issues while ___ was admitted to inpatient psychiatry. 
___ should follow up with her PCP ___ ___ weeks for a repeat 
CBC per medicine recommendations. 

5. PSYCHOSOCIAL
#) GROUPS/MILIEU:  
The ___ was encouraged to participate in the various groups 
and milieu therapy opportunities offered by the unit.  The 
___ declined to participate in groups on the unit, however 
was observed to be social with peers. The ___ was easy to 
engage and pleasant in the milieu. 

#) COLLATERAL CONTACTS & FAMILY INVOLVEMENT
Spoke with ___ outpatient psychiatrist, ___, who 
discussed with the team the ___ presentation over the past 
few months and the ___ family stressors. ___ was 
discharged with an appointment with Mr. ___ two days after 
discharge. 

Social work spoke with ___ mentor at ___, 
who reported that she had visited ___ on the unit and 
___ was at baseline. She was in agreement  with discharged 
and reported she will continue to support the ___. 

#) INTERVENTIONS
- Medications: ___ given vistaril PRN during admission. 
___ declined starting any standing medications.
- Psychotherapeutic Interventions: Individual, group, and milieu 
therapy.
- Coordination of aftercare: ___ discharged with follow up 
with her therapist and Arbour IOP. 
-Guardianships: N/A

RISK ASSESSMENT & PROGNOSIS

On presentation, the ___ was evaluated and felt to be at an 
increased risk of harm to herself due to SI. Her static factors 
noted at that time include adolescent age, history of prior 
suicide attempt, identification of LGBBTQ individual. Modifiable 
risk factors included SI, impulsiveness, intoxication, acutely 
stressful events, and limited coping skills. During 
hospitalization, the ___ continually denied SI. She had good 
insight into the impact of alcohol use and stated that she would 
not longer drink alcohol. She developed a list of ways to cope 
with feeling down, including calling her mentor or going to the 
gym. At the time of discharge, the ___ had many protective 
factors making her appropriate for outpatient follow up 
including no SI, female gender, help seeking behavior, future 
oriented viewpoint with motivation to continue college, no 
chronic substance use, good social support from her mentor, and 
the presence of outpatient follow up with her therapist and PHP. 


Our Prognosis of this ___ is fair. 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. This ___ is not taking any preadmission medications

 
Discharge Medications:
None
Ms. ___ politely declined starting any psychiatric 
medications. She reported that she will reconsider that with her 
outpatient providers.
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Unspecified anxiety disorder
r/o panic disorder
r/o PTSD
r/o bipolar disorder

 
Discharge Condition:
On the discharge day (___): Ms. ___ reported feeling well. 
She shared that she slept well (from 11pm to 8am). Attended 
morning opening meeting. She shared that she spoke with her 
mentor at the school.

Vitals: T 98.4 BP 131/68 HR 86 RR 18 O2 100% RA
-Appearance: Age-appearing female, wearing casual clothes, good 
hygiene
-Behavior: calm, cooperative, engaged 
-Mood: 'great'. She placed mood at level 9 on scale from ___.
-Affect: euthymic, mood congruent
-Speech: Fluent, no dysarthria, non-pressured, normal volume. 
-Thought process: Linear, coherent, goal-oriented, no loose
associations
-Thought Denies SI, does not report AVH, no evidence of 
delusions. Talking about protective factors, she said:"I have 
many things to live for". She shared about positive plans for 
future: she will resume seeing therapist; she will start PHP on 
___.

-Insight: Fair 
-Judgment: Fair 

 
Discharge Instructions:
-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Unless a limited duration is specified in the prescription, 
please continue all medications as directed until your 
prescriber tells you to stop or change.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.
It was a pleasure to have worked with you, and we wish you the 
best of health.
 
Followup Instructions:
___